US04384135
Reaction of 4-chloro-3-nitrobenzotrifluoride with sodium methoxide to give 4-methoxy-3-nitro-benzotrifluoride

reactant | 4-chloro-3-nitrobenzotrifluoride | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | sodium methoxide | C[O-].[Na+]
product | 4-methoxy-3-nitro-benzotrifluoride | COC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO3
